US07262200B2
Step G: 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-piperidin-1-yl-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one
To (2-Chloro-6-piperidin-1-yl-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine (80 mg, 0.217 mmol) in NMP (1 mL) was added 6-Amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester (65 mg, 0.26 mmol) and heated to 90° C. for 12 hr in a sealed tube. Solution was poured into sat. NaHCO3, resulting in a brown solid. The dried solid was taken up in 5 ml of methylene chloride and treated with 5 mL of TFA for 6 hr. The reaction was evaporated and the title compound was isolated by preparative HPLC to give a yellow solid (47,5 mg). HNMR (500 MHz, dmso); δ11.45 (1H, bs), 10.45 (1H, bs), 8.0 (1H, s), 7.70 (1h, m), 7.6 (1H, m), 7.5 (1H, m), 7.4 (1H, s), 7.1 (1H, m), 6.25 (1H, bs), 3.3 (4H, bs), 2.80–2.55 (7H, m), 0.80 (2H, m), 0.40 (2H, m); HPLC tr=3.51 min (10% to 90% MeCN over 8 min, total time 12 min, 3×150 mm C18 column) FIA m/e 482.5 (M+H), 480.2 (M−H).

reactant | (2-Chloro-6-piperidin-1-yl-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 0.217 mmol, 80 mg | ClC1=NC2=CC=C(C=C2C(=N1)NC=1NN=C(C1)C1CC1)N1CCCCC1 | C19H21ClN6
reactant | 6-Amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester | 0.26 mmol, 65 mg | C(C)(C)(C)OC(=O)N1NC(C2=CC=C(C=C12)N)=O | C12H15N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-piperidin-1-yl-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=C(C=C12)N1CCCCC1)NC1=CC=C2C(NNC2=C1)=O | C26H27N9O
